US09120804B2
3-hydroxy-3-methyl-6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1,3-dihydro-indol-2-one (“C71”)
8-(1-Methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine is reacted with 6-bromo-3-hydroxy-3-methyl-1,3-dihydro-indol-2-one, available via addition of methymagnesiumbromide to 6-bromo-Isatin, to give the title compound as a solid.

reactant | 8-(1-Methylpyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-amine | CN1N=CC(=C1)C=1C=2N(C=CN1)N=C(N2)N | C9H9N7
reactant | 6-bromo-3-hydroxy-3-methyl-1,3-dihydro-indol-2-one | BrC1=CC=C2C(C(NC2=C1)=O)(C)O | C9H8BrNO2
reactant | methymagnesiumbromide | C[Mg]Br
reactant | 6-bromo-Isatin | BrC1=CC=C2C(C(NC2=C1)=O)=O | C8H4BrNO2
product | 3-hydroxy-3-methyl-6-[8-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyrazin-2-ylamino]-1,3-dihydro-indol-2-one | OC1(C(NC2=CC(=CC=C12)NC1=NN2C(C(=NC=C2)C=2C=NN(C2)C)=N1)=O)C | C18H16N8O2
